US06774082B2
Preparation of 7,10,13-tri(t-butoxycarbonyl)-7,10,13-triazapentadecanol
To a well stirred solution of 7,10,13-triazapentadecanol in CH2Cl2(150 ml), was added (BOC)2O (15 g, 69 mmole). After 16 hours at RT, the solvents were evaporated. The residue was purified on silica gel using CH2Cl2/acetone (20/1 v/v). The product was obtained in quantitative yield. The reaction is shown below:

reactant | 7,10,13-triazapentadecanol | C(CCCCCNCCNCCNCC)O | C12H29N3O
reactant | (BOC)2O | 69 mmole, 15 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 7,10,13-tri(t-butoxycarbonyl)-7,10,13-triazapentadecanol | quantitative yield | C(C)(C)(C)OC(=O)N(CCCCCCO)CCN(CCN(CC)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C27H53N3O7
